US05397798
A. 2-Amino-N-[2-(1H-pyrazol-3-yl)ethyl]benzamide
A slurry containing 17.7 g (O.109 mol) of isatoic anhydride in 80 ml of dioxane was slowly added to a cold (0° C.) solution of 12.1 g (O.109 mol) of 3-(2-aminoethyl)pyrazole in 150 ml of dioxane, under nitrogen. The reaction solution was gradually warmed to room temperature and allowed to react overnight. When the reaction was complete, as indicated by thin layer chromatography, water was added and the solution was reduced to dryness under reduced pressure. The resultant residue was dissolved in an ethyl acetate/aqueous sodium bicarbonate mixture. The resulting layers were separated and the organic layer was washed with water and reduced to dryness to provide an oil. This oil was purified by crystallization from dichloromethane, followed by recrystallization from an ethyl acetate/diethyl ether solution, to provide 12.8 g of the desired subtitled intermediate (m.p. 97°-99° C.).

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 3-(2-aminoethyl)pyrazole | NCCC1=NNC=C1 | C5H9N3
reactant | water | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-N-[2-(1H-pyrazol-3-yl)ethyl]benzamide | 12.8 g | NC1=C(C(=O)NCCC2=NNC=C2)C=CC=C1 | C12H14N4O
